US05399703
Step 3 (E)-2-[2-[4-(2-heptenyloxy)benzoylamino]phenylthio]benzoic acid
In 30 ml of methylene chloride were dissolved 2.1 g of ethyl 2-(2-aminophenylthio)benzoate and 1.8 g of triethylamine, followed by dropwise addition of 2.2 g of (E)-4-(2-heptenyloxy)benzoyl chloride with ice-cooling and stirring. The mixture was stirred at room temperature for 10 hours, and then the methylene chloride was distilled off. The residue was diluted with water and extracted with ether. The ether layer was washed with diluted hydrochloric acid and saturated sodium hydrogen carbonate solution and dried and the ether was distilled off. The oily residue was dissolved in 50 ml of ethanol followed by addition of 7 ml of 10% aqueous sodium hydroxide solution, and the mixture was heated on a water bath for 40 minutes. After cooling, the reaction mixture was acidified with hydrochloric acid and diluted with water and the crystals separated out therefrom were collected by filtration and washed with water and aqueous ethanol in that order to give 2.8 g of the title compound as white crystals.

reactant | ethyl 2-(2-aminophenylthio)benzoate | 2.1 g | NC1=C(C=CC=C1)SC1=C(C(=O)OCC)C=CC=C1 | C15H15NO2S
reactant | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
reactant | (E)-4-(2-heptenyloxy)benzoyl chloride | 2.2 g | C(\C=C\CCCC)OC1=CC=C(C(=O)Cl)C=C1 | C14H17ClO2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (E)-2-[2-[4-(2-heptenyloxy)benzoylamino]phenylthio]benzoic acid | 2.8 g | C(\C=C\CCCC)OC1=CC=C(C(=O)NC2=C(C=CC=C2)SC2=C(C(=O)O)C=CC=C2)C=C1 | C27H27NO4S
